US03960841
350 mg. of 1,3,5(10)-estratriene-3,17β,18-triol in 10 ml. of ethanol is heated for 5 hours to the boiling point under N2 with 0.5 ml. of cyclopentyl bromide and 0.5 g. of potassium carbonate. After the mixture has been worked up and purified analogously to Example 18, 3-cyclopentyloxy-1,3,5(10)-estratriene-17β,18-diol is obtained.

reactant | 1,3,5(10)-estratriene-3,17β,18-triol | C([C@@]12[C@H](CC[C@H]1[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)O)O | C18H24O3
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3-cyclopentyloxy-1,3,5(10)-estratriene-17β,18-diol | C1(CCCC1)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(CO)CC[C@@H]3C2C=C1)O | C23H32O3
